US07618967B2
0.73 g (1R,3R)-3-(5-chloro-1H-indol-3-yl)-indan-1-ylamine was suspended in 200 mL 1,2-dichloro-ethane, 100 mL water and 0.5 mL 9N NaOH. 0.25 mL Methyl chloroformate (1.2 equiv) and 50 mg Bu4NBr were added. The reaction mixture was stirred 30 minutes at room temperature. The organic phase was dried over MgSO4 and concentrated in vacuo to give 0.6 g [(1R,3R)-3-(5-chloro-1H-indol-3-yl)-indan-1-yl]-carbamic acid methyl ester. 0.6 g [(1R,3R)-3-(5-Chloro-1H-indol-3-yl)-indan-1-yl]-carbamic acid methyl ester was obtained after aqueous work up. [(1R,3R)-3-(5-Chloro-1H-indol-3-yl)-indan-1-yl]-carbamic acid methyl ester was dissolved in 250 mL dry THF and 0.6 g LiAlH4 was added. The reaction mixture was refluxed for 2 hours. The reaction was quenched with 2 mL water, filtered and concentrated in vacuo to give an oil. The oil was dissolved in ethyl acetate and 350 mg [(1R,3R)-3-(5-chloro-1H-indol-3-yl)-indan-1-yl]-methyl-amine precipitated on standing at room temperature over night.

reactant | (1R,3R)-3-(5-chloro-1H-indol-3-yl)-indan-1-ylamine | 0.73 g | ClC=1C=C2C(=CNC2=CC1)[C@@H]1C[C@H](C2=CC=CC=C12)N | C17H15ClN2
reactant | water | 100 mL | O | H2O
reactant | NaOH | 9N, 0.5 mL | [OH-].[Na+]
reactant | Methyl chloroformate | 0.25 mL, 1.2 equiv | ClC(=O)OC | C2H3ClO2
solvent | 1,2-dichloro-ethane | 200 mL | ClCCCl | C2H4Cl2
catalyst | Bu4NBr | 50 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
product | [(1R,3R)-3-(5-chloro-1H-indol-3-yl)-indan-1-yl]-carbamic acid methyl ester | 0.6 g | COC(N[C@@H]1C[C@H](C2=CC=CC=C12)C1=CNC2=CC=C(C=C12)Cl)=O | C19H17ClN2O2
